US07498292B2
To a stirred solution of 10-undecenoic acid (5.055 mL, 25 mmol) in CH2Cl2 (50 mL) was slowly added (COCl)2 (4.364 mL, 50 mmol). The mixture was stirred at room temperature overnight. The solvent was removed under reduced pressure to give 10-undecenoyl chloride (25 mmol). The product was used for the next reaction without further purification. 1H NMR (500 MHz, CDCl3) δ 1.29-1.48 (m, 10H), 1.71 (m, 2H), 2.05 (m, 2H), 2.88 (t, J=7 Hz, 2H), 4.98 (m, 2H), 5.80 (m, 1H).

reactant | 10-undecenoic acid | 25 mmol, 5.055 mL | C(CCCCCCCCC=C)(=O)O | C11H20O2
reactant | (COCl)2 | 50 mmol, 4.364 mL | C(=O)(C(=O)Cl)Cl | C2Cl2O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 10-undecenoyl chloride | 25 mmol | C(CCCCCCCCC=C)(=O)Cl | C11H19ClO
